US04548932
In 100 ml of ethanol is dissolved 4.5 g of sodium, and 27.8 g of ethyl 4-ethylhexanoate and 29 g of diethyl oxalate are added to the solution, and the low-boiling substance is removed by evaporation under reduced pressure at about 70° C. for 40 minutes. After cooling, 500 ml of water and 300 ml of petroleum ether are added to the brown viscous residue, and the mixture is thoroughly shaken. The aqueous layer is separated off and the petroleum layer is extracted twice with 50 ml each of 1N sodium hydroxide solution. The extracts are combined, acidified slightly with concentrated hydrochloric acid and extracted twice with 200 ml each of ethyl acetate. The extract is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. One hundred and ten (110) ml of 10% aqueous dimethylsulfoxide and 10 g of sodium chloride are added to the oily residue, and the mixture is stirred at 160° C. for 2.5 hours. After the reaction mixture is cooled, 500 ml of water is added, followed by extraction with 300 ml of ethyl acetate. The extract is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The brown oily residue is distilled under reduced pressure to give 16.4 g of ethyl 5-ethyl-2-oxoheptanoate as a pale yellow oil.

reactant | sodium | 4.5 g | [Na] | Na
reactant | ethyl 4-ethylhexanoate | 27.8 g | C(C)C(CCC(=O)OCC)CC | C10H20O2
reactant | diethyl oxalate | 29 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 5-ethyl-2-oxoheptanoate | 16.4 g | C(C)C(CCC(C(=O)OCC)=O)CC | C11H20O3
